US07291631B2
{4-[(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester
Using General Procedure B, 3-methyl-pyridine-2-carbaldehyde (2.87 g, 23.7 mmol) in dry MeOH (10 mL) was added to a solution (4-amino-butyl)-carbamic acid tert-butyl ester (4.47 g, 23.7 mmol) (Krapcho, A. et al. Synth. Commun. 1990, 20, 2559-2564) in dry MeOH (50 mL) and warmed to 50° C. under N2 for 17 h. The mixture was cooled to ambient temperature and NaBH4 (1.35 g, 35.7 mmol) was added, resulting in bubbling. The mixture was stirred for 90 min. under N2 when the bubbling subsided. A solution of saturated NaHCO3 (50 mL) and CH2Cl2 (150 mL) were added to the MeOH solution and the layers were separated. The aqueous layer was extracted with CH2Cl2 (3×100 mL), dried over Na2SO4 and concentrated in vacuo. Purification by column chromatography on silica gel (130 g) with CH2Cl2/MeOH (96:4) to CH2Cl2/MeOH/NH4OH (88:8:4) afforded the title compound (6.05 g, 87%) as an orange oil which solidified on standing. 1H NMR (CDCl3) δ 1.35-1.50 (m, 4H), 1.43 (s, 9H), 2.05 (bs, 1H), 2.30 (s, 3H), 2.72 (t, 2H, J=6.5 Hz), 3.00-3.20 (m, 2H), 3.86 (s, 2H), 4.76 (bs, 1H), 7.07 (dd, 1H, 7.5, 4.5 Hz), 7.42 (d, 1H, J=7.5 Hz), 8.38 (d, 1H, J=4.5 Hz); 13C NMR (CDCl3) δ 18.06, 27.45, 27.89, 28.43, 40.48, 49.54, 52.18, 78.89, 121.78, 130.84, 137.52, 146.41, 156.03, 157.25; ES-MS m/z 194 (M+H). Anal Calcd. For C16H27N3O2.0.2(H2O): C, 64.70; H, 9.30; N, 14.15. Found: C, 65.07; H, 9.35; N, 14.29.

reactant | 3-methyl-pyridine-2-carbaldehyde | 23.7 mmol, 2.87 g | CC=1C(=NC=CC1)C=O | C7H7NO
reactant | (4-amino-butyl)-carbamic acid tert-butyl ester | 23.7 mmol, 4.47 g | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | NaBH4 | 35.7 mmol, 1.35 g | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 50 mL | CO | CH4O
product | {4-[(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | 6.05 g, 87% | C(C)(C)(C)OC(NCCCCNCC1=NC=CC=C1C)=O | C16H27N3O2
